Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril-hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Hyponatremia, cough, fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female w/PMH of HTN, DM, HL presenting with
cough/fatigue, initial sore throat, and lightheadedness for ___
days in setting of URI presented to PCP and was found to have
sodium of 122 referred to ED for further evaluation. She states
was noting cough with sputum production, fatigue, and
lightheadedness. Per her daughters, over the past few days, she
was not eating as much. In the morning, she takes tea/toast,
lunch: rice/oatmeal and dinner: rice/noodles. She recently had
flu vaccine yesterday. She does not recall having fevers. She
continued to take her medication during course of illness. 

Currently, she denies chest pain, SOB, abdominal pain, dysuria,
headaches, fevers. Reports cough with clear to green sputum
production. Also endorses lightheadedness when walking.
Additional ROS reviewed and were negative. Denies recent travel.
No sick contacts that she is aware of. 

In the ED, she was given IV NS 2.5 L. Initial vitals were 
T: 97.2, HR: 71, BP: 147/59, RR: 18, O2: 99% RA. Initial sodium
was 120 at 3:50 a.m. on ___ and improved to 125 at 11:14 a.m. 

ROS:
Positives on review of systems:
All other systems reviewed and negative, specifically, denies:
visual changes, numbness/weakness, chest pain, shortness of
breath, fevers, nausea, vomiting, abdominal pain, diarrhea,
bleeding, rash, joint aches/pains.

 
Past Medical History:
PMH: 
DIABETES TYPE II                                                
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
CLAUDICATION                                                    
moderate dz on noninvasive vascular studies                     
DIABETIC NEPHROPATHY                                            

Surgical History:
CATARACT SURGERY                                                

 
Social History:
___
Family History:
Family History: Mother/Father: unknown, Sister: ___,
Daughters: HTN, HL
 
Physical Exam:
Physical Exam:
VS:  T: 98.3, BP: 154/66, HR: 64, RR: 18, O2: 95% RA
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no frontal/maxillary sinus tenderness appreciated, MMM,
oropharynx without exudate or lesions, +1 upper anterior chain
lympadenopathy no JVD, no carotid bruits, no thyromegaly or
palpable thyroid nodules
Pharynx: no erythema, no exudate noted, MMM
Respiratory: slightly diminished breath sounds RLL, otherwise 
CTA
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema, +2 DP pulses
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated. Gait stable,
negative pronator drift. Lightheadedness endorsed when walking.
MSK: ___ strength in ___: no edema, +2 DP pulses, varicose veins bilaterally noted 
Psychiatric: pleasant, appropriate affect

Discharge Physical Exam:
VS:  98.1 113/66 64
aox3
ctab
rrr
soft abd no organomegaly
no peripheral edema

 
Pertinent Results:
___ 06:35AM BLOOD WBC-6.5 RBC-4.04 Hgb-11.9 Hct-34.7 MCV-86 
MCH-29.5 MCHC-34.3 RDW-11.9 RDWSD-36.7 Plt ___
___ 03:50AM BLOOD WBC-9.8 RBC-4.21 Hgb-12.5 Hct-36.0 MCV-86 
MCH-29.7 MCHC-34.7 RDW-12.6 RDWSD-38.5 Plt ___
___ 03:57PM BLOOD WBC-8.2 RBC-4.52 Hgb-13.0 Hct-38.6 MCV-85 
MCH-28.8 MCHC-33.7 RDW-11.9 RDWSD-36.6 Plt ___
___ 03:50AM BLOOD Neuts-66.0 ___ Monos-11.0 Eos-1.2 
Baso-0.6 Im ___ AbsNeut-6.48*# AbsLymp-1.98 AbsMono-1.08* 
AbsEos-0.12 AbsBaso-0.06
___ 06:35AM BLOOD Plt ___
___ 03:50AM BLOOD Plt ___
___ 03:57PM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-139* UreaN-20 Creat-0.8 Na-135 
K-5.1 Cl-94* HCO3-28 AnGap-13
___ 10:17PM BLOOD Glucose-179* UreaN-23* Creat-0.9 Na-128* 
K-4.2 Cl-90* HCO3-24 AnGap-14
___ 04:50PM BLOOD Glucose-117* UreaN-14 Creat-0.7 Na-129* 
K-4.6 Cl-91* HCO3-25 AnGap-13
___ 03:50AM BLOOD Glucose-74 UreaN-16 Creat-0.8 Na-120* 
K-8.1* Cl-81* HCO3-22 AnGap-17
___ 03:57PM BLOOD Glucose-159*
___ 03:57PM BLOOD UreaN-18 Creat-0.9 Na-122* K-4.7 Cl-80* 
HCO3-25 AnGap-17
___ 04:50PM BLOOD ALT-31 AST-16 LD(LDH)-143 AlkPhos-97 
TotBili-0.3
___ 03:57PM BLOOD ALT-41* AST-19 CK(CPK)-156 AlkPhos-104 
TotBili-0.3
___ 06:35AM BLOOD Calcium-9.6 Phos-4.5 Mg-2.0
___ 10:17PM BLOOD Calcium-9.5 Phos-5.0* Mg-2.0 UricAcd-5.1
___ 04:50PM BLOOD Calcium-10.0 Phos-4.1 Mg-1.9 UricAcd-4.0
___ 03:57PM BLOOD %HbA1c-7.1* eAG-157*
___ 03:50AM BLOOD Osmolal-253*
___ 03:57PM BLOOD TSH-1.9
___ 03:50AM BLOOD Cortsol-20.7*
___ 11:14AM BLOOD Na-125*
___ 06:46AM BLOOD Na-125* K-4.0
___ 05:19AM BLOOD Na-118* K-8.4*

Chest X-ray ___
 
FINDINGS:  
  
The lungs are clear.  The pulmonary vasculature is unremarkable. 

There is a small right pleural effusion.  No pleural effusion on
the left.  No pneumothorax.  The cardiomediastinal silhouette is
unremarkable.  No acute 
osseous abnormalities. 
  
IMPRESSION:  
  
Small right pleural effusion vs. pleural thickening.  There is 
no
acute cardiopulmonary process. 

 
Brief Hospital Course:
___ year old female w/PMH of HTN, DM, HL presenting with 
cough/fatigue, initial sore throat, and lightheadedness for ___ 
days in setting of URI presented to PCP and was found to have 
sodium of 122 referred to ED for further evaluation. 

Hyponatremia: improved at time of discharge to 135 with IVF and 
holding her hctz.  suspected to be mild hypovolemia from low PO 
intake from URI and concominant use of diuretic.

#HTN: holding hctz at discharge, continue losartan

#DM2: continue home meds on discharge.

#URI: influenza swab negative

#Constipation: bowel reg recommended

#Pleural effusion: seen on CXR
[]recommend future outpatient cxr to track this change

 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,
You were hospitalized for low sodium levels likely. Your sodium 
levels improved with IV hydration. You were noted to have a 
small pleural effusion on your Chest X-ray which will need 
follow-up chest X-ray as an outpatient. 

We wish you best wishes in your recovery.

Best wishes,
Your ___ team
 
Followup Instructions:
___